US06884821B1
29 mg of ethyl 3-(7-[(tertiary butoxycarbonyl)amino]methylbenzo[b]furan-5-yl)-2-isopropoxypropionate was dissolved in ethanol, and 30 mg of 10% palladium-carbon was added, and the mixture was stirred at room temperature for 3 days in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated, to give 27 mg of ethyl 3-(7-[(tertiary butoxycarbonyl)amino]methyl-2,3-dihydrobenzo[b]furan-5-yl)-2-isopropoxypropionate.

reactant | ethyl 3-(7-[(tertiary butoxycarbonyl)amino]methylbenzo[b]furan-5-yl)-2-isopropoxypropionate | 29 mg | C(C)(C)(C)OC(=O)NCC1=CC(=CC2=C1OC=C2)CC(C(=O)OCC)OC(C)C | C22H31NO6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | ethyl 3-(7-[(tertiary butoxycarbonyl)amino]methyl-2,3-dihydrobenzo[b]furan-5-yl)-2-isopropoxypropionate | 27 mg | C(C)(C)(C)OC(=O)NCC1=CC(=CC2=C1OCC2)CC(C(=O)OCC)OC(C)C | C22H33NO6
